US08735384B2
4-(6-Bromo-2-(4-methoxybenzylamino)quinolin-3-yl)tetrahydro-2H-pyran-4-ol (0.250 g, 0.564 mmol) in a mixture of dioxane (4 mL), 5N HCl (4.00 mL, 20.00 mmol) and concentrated HCl (1.00 mL, 32.9 mmol) was heated at 90° C. for 5 h. The reaction was transferred to a microwave reaction vessel and heated in a microwave reactor at 130° C. for 40 min and was concentrated. The crude solid was partitioned between EtOAc and 10% sodium carbonate. The combined organic extracts were washed with water, saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material. The crude material was purified by silica gel chromatography by eluting with 1:30 2M NH3 in MeOH/DCM to provide 6-bromo-3-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-amine as white solid.

reactant | 4-(6-Bromo-2-(4-methoxybenzylamino)quinolin-3-yl)tetrahydro-2H-pyran-4-ol | 0.564 mmol, 0.250 g | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)C1(CCOCC1)O | C22H23BrN2O3
reactant | HCl | 20.00 mmol, 5N, 4.00 mL | Cl | ClH
reactant | HCl | 32.9 mmol, 1.00 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-bromo-3-(3,6-dihydro-2H-pyran-4-yl)quinolin-2-amine | BrC=1C=C2C=C(C(=NC2=CC1)N)C=1CCOCC1 | C14H13BrN2O
